US09403835B2
Step 2: 6-methyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene hydrochloride
Aq. 32% HCl (1.61 mL; 16.4 mmol; 3 eq.) was added to a solution of 6-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester (1.5 g; 5.47 mmol; 1 eq.) in AcOH (7.5 mL) and the resulting mixture was stirred at room temperature for 28 hours then poured dropwise into EtOH (40 mL) under vigorous stirring. The precipitate was filtered off, washed with EtOH then MTBE and dried to afford the title compound (0.75 g, 65%) as a white solid. 1H NMR (DMSO-d6) δ 10.50 (s, 2H), 9.06-9.02 (m, 1H), 8.51 (d, J=2.1 Hz, 1H), 4.55-4.52 (m, 4H), 2.33 (s, 3H). HPLC (max plot) 100.0%; Rt 4.36 min.

reactant | HCl | 16.4 mmol, 1.61 mL, 3 eq. | Cl | ClH
reactant | 6-methyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carboxylic acid tert-butyl ester | 5.47 mmol, 1.5 g, 1 eq. | C(C)(C)(C)OC(=O)N1CC=2C(=C3N=CC(=CN3N2)C)C1 | C14H18N4O2
reactant | EtOH | 40 mL | CCO | C2H6O
solvent | AcOH | 7.5 mL | CC(=O)O | C2H4O2
product | 6-methyl-2,3-dihydro-1H-2,4,7a,8-tetraaza-cyclopenta[a]indene hydrochloride | 0.75 g, 65% | Cl.CC1=CN2N=C3C(=C2N=C1)CNC3 | InChI=1S/C9H10N4.ClH/c1-6-2-11-9-7-3-10-4-8(7)12-13(9)5-6;/h2,5,10H,3-4H2,1H3;1H
